US04939282
2-Methoxycarbonyl-5-(2-methyldioxolan-2-yl)-6-oxabicyclo[3,2,1] octan-7-one (VI)
8 g of 1,2-di-(methoxycarbonyl)-4-ethylidene-cyclohexane, prepared as described in Example 2, was dissolved in aqueous acetone containing 4.8 ml of acetic acid. An aqueous solution of potassium permanganate was added, and the mixture was allowed to stand for 60 minutes at room temperature. The excess oxidant was then destroyed and the reaction mixture, diluted with water, was extracted with ethyl acetate. The organic phase, washed with water and dried over anhydrous sodium sulphate, was evaporated to dryness under vacuum. The residue (9 g) was dissolved in benzene and refluxed for 60 minutes in the presence of a catalytic amount of p-toluenesulphonic acid. 4 ml of ethylene glycol was added and the reaction mixture was refluxed for a further 2 hours. After conventional work-up, the residue, obtained by evaporating off the solvent, was purified by chromatography on a column of silica gel using as eluent a toluene:acetone mixture (15:1 by volume). 3.0 g of the title compound was isolated (yield 33%): m.p. 69°°-71° C; m/z 271 (MH+). IR (KBr): 1790 cm-1 (C=O five membered ring lactone) 1735 cm -1 (C=O ester); 1720 cm-1 (C=O ketone)

reactant | 1,2-di-(methoxycarbonyl)-4-ethylidene-cyclohexane | 8 g | COC(=O)C1C(CC(CC1)=CC)C(=O)OC | C12H18O4
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | acetone | 4.8 ml | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Methoxycarbonyl-5-(2-methyldioxolan-2-yl)-6-oxabicyclo[3,2,1] octan-7-one | 3.0 g, yield 33% | COC(=O)C1C2C(OC(CC1)(C2)C2(OCCO2)C)=O | C13H18O6
